US06881736B1
e) Methyl (±)-3-[4-(trifluoromethyl)thiazol-2-yl]-4-(4-hydroxyphenyl)butanoate
To a solution of methyl (±)-3[4-(trifluoromethyl)thiazol-2-yl]-4-(4-benzyloxyphenyl)butanoate (0.44 mmole, crude) in EtSH (5 mL) at RT was added BF3.OEt2 (0.3 mL). After 18 hr. additional BF3.OEt2 (0.3 mL) was added. After another 18 hr, the mixture was cooled to 0° C. and carefully quenched with saturated NaHCO3. The resulting mixture was extracted with CH2Cl2 (3×25 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was chromatographed on silica gel (30% EtOAc/hexanes) to give the title compound (123 mg, 81% over 3 steps) as a yellow oil: MS (ES) m/e 346 (M+H)+.

reactant | methyl (±)-3[4-(trifluoromethyl)thiazol-2-yl]-4-(4-benzyloxyphenyl)butanoate | 0.44 mmole | FC(C=1N=C(SC1)C(CC(=O)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1)(F)F | C22H20F3NO3S
reactant | BF3.OEt2 | 0.3 mL | B(F)(F)F.CCOCC
reactant | BF3.OEt2 | 0.3 mL | B(F)(F)F.CCOCC
solvent | EtSH | 5 mL | CCS | C2H6S
product | Methyl (±)-3-[4-(trifluoromethyl)thiazol-2-yl]-4-(4-hydroxyphenyl)butanoate | 123 mg, 81% | FC(C=1N=C(SC1)C(CC(=O)OC)CC1=CC=C(C=C1)O)(F)F | C15H14F3NO3S
